US08580762B2
Step 4ii. N-methoxy-N-methyl-3-{[5-(trifluoromethyl)-1H-1,3-benzodiazol-2-yl]methyl}-cyclobutane-1-carboxamide
A solution of the 3-({[2-amino-5-(trifluoromethyl)phenyl]carbamoyl}methyl)-N-methoxy-N-methylcyclobutane-1-carboxamide (0.82 g, 2.29 mmol) in AcOH (10 ml) was heated to reflux (˜125° C.) whilst stirring for 2.5 h. The reaction was monitored by LC MS. The reaction mixture was allowed to cool to RT and then evaporated in vacuo. The residue was dissolved in DCM (30 ml) and washed with sat. NaHCO3 (50 ml), dried over Na2SO4, filtered and evaporated. The crude was purified by silica gel column chromatography, eluting with MeOH:DCM (2:98-5:95) to give a yellow-brown oil (0.75 g, 94%); MS (ESI+) for C16H18F3N3O2 m/z 342.10[M+H]+; HPLC purity 97% (ret. time, 1.40 min); 1H NMR (500 MHz, MeOD) δH ppm 1.96-2.17 (2 H, m), 2.27-2.55 (2 H, m), 2.66-2.92 (1 H, m), 2.97-3.15 (2 H, m), 3.15-3.22 (3 H, m), 3.32-3.62 (1 H, m), 3.63-3.73 (3 H, m), 7.37-7.53 (1 H, m), 7.53-8.00 (2 H, m).

reactant | 3-({[2-amino-5-(trifluoromethyl)phenyl]carbamoyl}methyl)-N-methoxy-N-methylcyclobutane-1-carboxamide | 2.29 mmol, 0.82 g | NC1=C(C=C(C=C1)C(F)(F)F)NC(=O)CC1CC(C1)C(=O)N(C)OC | C16H20F3N3O3
solvent | AcOH | 10 ml | CC(=O)O | C2H4O2
product | N-methoxy-N-methyl-3-{[5-(trifluoromethyl)-1H-1,3-benzodiazol-2-yl]methyl}-cyclobutane-1-carboxamide | 0.75 g, 94% | CON(C(=O)C1CC(C1)CC1=NC2=C(N1)C=CC(=C2)C(F)(F)F)C | C16H18F3N3O2
